US07199135B2
(2R)-2-(4-fluorophenyl)-N-(3-{4-[5-(isobutyrylamino)-2-methylphenyl]-1-piperidinyl}propyl) propanamide:
Example 169 was prepared from (2R)-2-(4-fluorophenyl)propanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 12; [α]D=−9.1° (C=1.65, MeOH): 1H NMR (400 MHz, CDCl3) δ 7.51 (d, 1 H, J=2.0 Hz), 7.37–7.28 (m, 2 H), 7.23–7.14 (m, 2 H), 7.08 (d, 1 H, J=8.0 Hz), 7.05–6.96 (m, 2 H), 6.90–6.82 (m, 1 H), 3.54 (q, 1 H, J=7.2 Hz), 3.43–3.23 (m, 2 H), 2.95 (ABq, 2 H), 2.73–2.59 (m, 1 H), 2.57–2.42 (m, 1 H), 2.42–2.32 (m, 2 H), 2.28 (s, 3 H), 2.07–1.91 (m, 2 H), 1.83–1.57 (m, 6 H), 1.51 (d, 3 H, J=7.2 Hz), 1.23 (d, 6 H, J=6.8 Hz); ESMS m/e: 468.3 (M+H)+.

reactant | (2R)-2-(4-fluorophenyl)propanoic acid | FC1=CC=C(C=C1)[C@H](C(=O)O)C | C9H9FO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
solvent | MeOH | CO | CH4O
product | (2R)-2-(4-fluorophenyl)-N-(3-{4-[5-(isobutyrylamino)-2-methylphenyl]-1-piperidinyl}propyl) propanamide | FC1=CC=C(C=C1)[C@H](C(=O)NCCCN1CCC(CC1)C1=C(C=CC(=C1)NC(C(C)C)=O)C)C | C28H38FN3O2
